US07582633B2
Step 2: 2-(4-{2-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanoic acid
Into a 25 mL round-bottom flask equipped with a magnetic stirbar was added ethyl 2-(4-{2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanate (55 mg, 0.11 mmol), 1 mL of THF and 0.5 mL of MeOH. A 1.0 M lithium hydroxide solution in water (0.53 mL, 0.53 mmol) was added and the reaction mixture was stirred at room temperature for 2 h. The mixture was poured into a 125 mL separatory funnel containing saturated aqueous KH2PO4 solution (75 mL) and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent was evaporated under reduced pressure to yield a beige crystalline solid.

reactant | ethyl 2-(4-{2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanate | 0.11 mmol, 55 mg | BrC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(C2)C(C(=O)OCC)C)C=C(C=C1)F | C22H24BrFN6O3
reactant | lithium hydroxide | 1.0 M | [OH-].[Li+]
reactant | water | 0.53 mmol, 0.53 mL | O | H2O
reactant | KH2PO4 | 75 mL | OP(=O)(O)[O-].[K+]
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(4-{2-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanoic acid | BrC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(C2)C(C(=O)O)C)C=C(C=C1)F | C20H20BrFN6O3
